US07223766B2
To a suspension of 4-chloro-2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine (78 mg, 0.275 mmol, 1 eq) in 57% H(aq) (2 ml) at rt was added NaI (206 mg, 1.37 mmol, 5 eq). The reaction mixture stirred at rt overnight and then was poured onto ice. The product was extracted with chloroform and the aqueous layer was neutralized with NaHCO3 and extracted further with chloroform. The organic layers were combined washed with brine, dried (MgSO4), filtered and evaporated in vacuo to provide a crude residue of 2-(5-Chloro-2-fluorophenyl)-4-iodo-5,7-dihydrofuro[3,4-d]pyrimidine which was not further purified.

reactant | 4-chloro-2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine | 0.275 mmol, 78 mg, 1 eq | ClC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)COC2 | C12H7Cl2FN2O
reactant | NaI | 1.37 mmol, 206 mg, 5 eq | [Na+].[I-]
product | 2-(5-Chloro-2-fluorophenyl)-4-iodo-5,7-dihydrofuro[3,4-d]pyrimidine | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)COC2)I)F | C12H7ClFIN2O
